US08252806B2
(3,4-Difluoro-benzyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A14)
Was prepared according to Method A from 2,4-dichloroquinazoline, 3,4-difluorobenzylamine and 3,5-dimethylpyrazole. Mp. 165° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 3,4-difluorobenzylamine | FC=1C=C(CN)C=CC1F | C7H7F2N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | (3,4-Difluoro-benzyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.FC=1C=C(CNC2=NC(=NC3=CC=CC=C23)N2N=C(C=C2C)C)C=CC1F | InChI=1S/C20H17F2N5.ClH/c1-12-9-13(2)27(26-12)20-24-18-6-4-3-5-15(18)19(25-20)23-11-14-7-8-16(21)17(22)10-14;/h3-10H,11H2,1-2H3,(H,23,24,25);1H
